US08633186B2
Prepared in a similar manner as example 160c from 2,6-dinitrobenzonitrile and isobutanol to provide 2-isobutoxy-6-nitrobenzonitrile. 1H NMR (400 MHz, DMSO-d6) δ 1.05 (d, J=6.4 Hz, 6H), 2.11 (sept, J=6.6 Hz, 1H), 4.07 (d, J=6.5 Hz, 2H), 7.75 (dd, J=8.0, 1.9 Hz, 1H), 7.91 (t, J=8.2 Hz, 1H), 7.94 (dd, J=8.2, 1.9 Hz, 1H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | isobutanol | C(C(C)C)O | C4H10O
product | 2-isobutoxy-6-nitrobenzonitrile | C(C(C)C)OC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C11H12N2O3
